US07635715B2
Step F: Preparation of Methyl N-((6-chloro-4-hydroxy-2-oxo-1′-(tert-butoxycarbonyl)-spiro[naphthalene-1,4′-piperidin]-3-yl)carbonyl)glycinate
A suspension of NaH (60% dispersion in mineral oil (17 mg, 423 μmol)) in dioxane (2.5 mL) was treated with a solution of (E)-benzaldehyde oxime (51 mg, 423 μmol) in DMF (1.5 mL). The reaction was stirred at 23° C. under nitrogen. After 30 minutes, the reaction was cooled to 0° C. and then a solution of 1-tert-butyl ethyl 4-(4-chloro-2-(3-ethoxy-3-oxoprop-1-ynyl)phenyl)piperidine-1,4-dicarboxylate (157 mg, 338 μmol) in DMF (3.5 mL) was added in a dropwise fashion over 10 minutes. After 1 hour, the reaction mixture was diluted with EtOAc (100 mL) and washed with saturated NaHCO3 solution (75 mL), water (75 mL) and brine (75 mL), dried over MgSO4, concentrated in vacuo, and purified by silica gel chromatography (eluant: 1-8% MeOH/DCM), affording the cyclized product. The cyclized product was mixed with glycine methyl ester hydrochloride (28 mg, 220 μmol) and DIPEA (48 μL, 275 μmol) in 1,4-dioxane (4 mL) and heated to 95° C. in a sealed vessel. After 18 hours, the reaction was cooled to 23° C., diluted with EtOAc (75 mL) and washed with saturated NaHCO3 solution (50 mL) and brine (50 mL), dried over MgSO4, concentrated in vacuo, and purified by silica gel chromatography (eluant: 28-100% EtOAc/hexane) affording the title compound in 40 mg. MS m/e=501.2 (M+Na)+.

reactant | NaH | 423 μmol, 17 mg | [H-].[Na+]
reactant | (E)-benzaldehyde oxime | 423 μmol, 51 mg | C(\C1=CC=CC=C1)=N/O | C7H7NO
reactant | 1-tert-butyl ethyl 4-(4-chloro-2-(3-ethoxy-3-oxoprop-1-ynyl)phenyl)piperidine-1,4-dicarboxylate | 338 μmol, 157 mg | ClC1=CC(=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC)C#CC(=O)OCC | C24H30ClNO6
reactant | glycine methyl ester hydrochloride | 220 μmol, 28 mg | Cl.COC(CN)=O
reactant | DIPEA | 275 μmol, 48 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | Methyl N-((6-chloro-4-hydroxy-2-oxo-1′-(tert-butoxycarbonyl)-spiro[naphthalene-1,4′-piperidin]-3-yl)carbonyl)glycinate | ClC=1C=C2C(=C(C(C3(CCN(CC3)C(=O)OC(C)(C)C)C2=CC1)=O)C(=O)NCC(=O)OC)O | C23H27ClN2O7
